US09290517B2
Step E 6-chloro-5-iodo-2-(methysulfanyl)-1H-imidazo[4,5-b]pyridine
A suspension of 6-chloro-5-iodo-1,3-dihydro-2H-imidazo[4,5-b]pyridine-2-thione (11.0 g, 35.3 mmol) and KOH (2.38 g, 42.4 mmol) in ethanol (200 mL) was stirred at rt for 0.5 h. Iodomethane (2.2 mL, 35.3 mmol) was then added and the reaction was allowed to stir for 1 h at rt. The ethanol was removed in vacuo and the resulting residue was partitioned between ethyl acetate (250 mL) and 2N HCl (50 mL). The ethyl acetate layer was washed with brine, dried over magnesium sulfate, filtered through a 100 g pad of silica gel and concentrated to give the desired product as a white solid. LC-MS: calculated for C2H5ClIN3S 325.56, observed m/e: 325.88 (M+H)+ (Rt 2.05/5 min).

reactant | 6-chloro-5-iodo-1,3-dihydro-2H-imidazo[4,5-b]pyridine-2-thione | 35.3 mmol, 11.0 g | ClC=1C=C2C(=NC1I)NC(N2)=S | C6H3ClIN3S
reactant | KOH | 42.4 mmol, 2.38 g | [OH-].[K+]
reactant | Iodomethane | 35.3 mmol, 2.2 mL | IC | CH3I
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 6-chloro-5-iodo-2-(methysulfanyl)-1H-imidazo[4,5-b]pyridine | ClC=1C=C2C(=NC1I)N=C(N2)SC | C7H5ClIN3S
